US06232417B1
Arylating Agent B(C6F5)3.3H2O
The synthesis of reported here is based on a prior publication (see U.S. Pat. No. 5,296,433, 1994). A 3.15 wt % solution of B(C6F5)3 in Isopar®E (50 ml, 2.22 mmol) was placed in a 200 ml Kjeldahl flask equipped with a magnetic stir bar. Approximately 50 ml of cyclohexane was added to this solution followed by 3 equiv of deoxygenated, demineralized water (0.120 ml, 6.67 mmol), which resulted in precipitation of a white, microcrystalline solid. The slurry was stirred for 30 m, the solvent was decanted, and the resulting solid was dried in vacuo. Yield, 0.826 g (66%). 19F NMR (C6D6): −134.7 (apparent d, 2F), −154.7 (apparent t, 1F), −162.6 (apparent t, 2F). FI-MS: m/z 512 [M+], evidently loss of water occurred in mass spectrometer. IR (Nujol): 3666 m, 3597 m, 3499 m, 2950 sh, 2920 s, 1647 m, 1602 m, 1520 s, 1468 s, 1379 m, 1288 m, 1111 m, 1098 m, 969 s, 859 w, 797 w, 771 w, 676 w, 614 w.

reactant | B(C6F5)3 | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
reactant | cyclohexane | 50 ml | C1CCCCC1 | C6H12
reactant | water | O | H2O
reactant | water | 6.67 mmol, 0.120 ml | O | H2O
product | B(C6F5)3.3H2O | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F.O.O.O | InChI=1S/C18BF15.3H2O/c20-4-1(5(21)11(27)16(32)10(4)26)19(2-6(22)12(28)17(33)13(29)7(2)23)3-8(24)14(30)18(34)15(31)9(3)25;;;/h;3*1H2
